US07989461B2
To a solution 6-(1-amino-6-methylisoquinolin-5-yl)-N-methylquinazolin-2-amine (0.075 g, 0.24 mmol) in toluene (2.0 ml) charged to a 5-mL microwave reaction vessel, 3-bromo-5-isopropoxypyridine (0.051 g, 0.24 mmol), X-Phos (0.0091 g, 0.019 mmol), tris(dibenzylideneacetone)dipalladium (o) (0.0087 g, 0.0095 mmol), and sodium tert-butoxide (0.046 g, 0.48 mmol) were added and the reaction mixture heated to 160° C. The reaction mixture was stirred at 160° C. for 1 hrs. The reaction mixture was then diluted with EtOAc and partioned with saturated aqueous sodium bicarbonate. The aqueous layer was extracted with EtOAc twice. The combined organics were washed with brine, dried over magnesium sulfate and concentrated under vacuum. The resulting residue was purified by HPLC to give 6-(1-(5-isopropoxypyridin-3-ylamino)-6-methylisoquinolin-5-yl)-N-methylquinazolin-2-amine. MS (M+H)+ 451.

reactant | 6-(1-amino-6-methylisoquinolin-5-yl)-N-methylquinazolin-2-amine | 0.24 mmol, 0.075 g | NC1=NC=CC2=C(C(=CC=C12)C)C=1C=C2C=NC(=NC2=CC1)NC | C19H17N5
reactant | 3-bromo-5-isopropoxypyridine | 0.24 mmol, 0.051 g | BrC=1C=NC=C(C1)OC(C)C | C8H10BrNO
reactant | X-Phos | 0.019 mmol, 0.0091 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | sodium tert-butoxide | 0.48 mmol, 0.046 g | CC(C)([O-])C.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 2.0 ml | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.0095 mmol, 0.0087 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-(1-(5-isopropoxypyridin-3-ylamino)-6-methylisoquinolin-5-yl)-N-methylquinazolin-2-amine | C(C)(C)OC=1C=C(C=NC1)NC1=NC=CC2=C(C(=CC=C12)C)C=1C=C2C=NC(=NC2=CC1)NC | C27H26N6O
